US07470689B2
d) 4-[6-Chloro-1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-6-(4-hydroxy-3,5-dimethylphenyl)-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin -3-one
6-Chloro-4-[6-chloro-1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one (100 mg; 0.185 mmol) and tetrakis(triphenylphosphine) palladium(0) (0.15 equivalents) are dissolved in DME, and argon is passed in for 10 min. 2,6-Dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (1 equivalent) and 2M aqueous sodium carbonate solution (2 equivalents) are added and the mixture is heated at 95° C. for 5 hours. The volatile constituents are removed in vacuo, the residue is taken up in DMF, and the product the product is purified by column chromatography (RP-HPLC, gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid)).

reactant | 6-Chloro-4-[6-chloro-1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one | 0.185 mmol, 100 mg | ClC=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)Cl | C23H34Cl2N4O3Si2
reactant | 2,6-Dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 1 equivalent | CC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)O | C14H21BO3
reactant | sodium carbonate | 2M, 2 equivalents | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.15 equivalents | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[6-Chloro-1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-6-(4-hydroxy-3,5-dimethylphenyl)-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin -3-one | ClC=1C=CC2=C(N(C(=N2)C=2C(N(N=C(C2)C2=CC(=C(C(=C2)C)O)C)COCC[Si](C)(C)C)=O)COCC[Si](C)(C)C)C1 | C31H43ClN4O4Si2
